US06844338B2
3,4-Dihydro-3,3-dimethyl-1-(prop-2-en-1-yl)-6-sulphonylmethyl-1H-2,1-benzothiazine 2,2-dioxide
3,4-Dihydro-3,3-dimethyl-6-methylthio-1-(prop-2-en-1-yl)-1H-2,1-benzothiazine 2,2-dioxide (1.6 g;0.00539 mol) was dissolved in acetone (50 mL) and oxone (7.29 g; 0.01185 mol) in water (20 mL) was added. The solution went opaque and was stirred for 30 min at room temperature. The acetone was removed on the rotary and water and ethyl acetate were added. The product was extracted with ethyl acetate (2×100 mL) and the organic extracts washed with water (2×100 mL). After drying, filtering and removal of solvent, a solid was isolated (1.2 g; 68%)

reactant | 3,4-Dihydro-3,3-dimethyl-6-methylthio-1-(prop-2-en-1-yl)-1H-2,1-benzothiazine 2,2-dioxide | 0.00539 mol, 1.6 g | CC1(S(N(C2=C(C1)C=C(C=C2)SC)CC=C)(=O)=O)C | C14H19NO2S2
reactant | oxone | 0.01185 mol, 7.29 g | OOS(=O)[O-].[K+]
reactant | acetone | 50 mL | CC(=O)C | C3H6O
solvent | water | 20 mL | O | H2O
product | 3,4-Dihydro-3,3-dimethyl-1-(prop-2-en-1-yl)-6-sulphonylmethyl-1H-2,1-benzothiazine 2,2-dioxide | CC1(S(N(C2=C(C1)C=C(C=C2)C=S(=O)=O)CC=C)(=O)=O)C | C14H17NO4S2
